US07109186B2
Compound 108-B: N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-isopropyl-acetamide
To a stirred mixture of (3,4-dichloro-benzyl)-isopropyl-amine; compound hydrochloride (260 mg, 1.024 mmol) and (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride (190 mg, 1.0 mmol) in CH2Cl2 (20 mL) at room temperature was added diisopropylethylamine (350 μL, 2.0 mmol). After 30 min, the reaction mixture was diluted with ethyl acetate (50 mL), washed with dilute aqueous HCl (1×5 mL), water (1×10 mL), and saturated aq. NaCl (1×5 mL). The organic layer was dried over Na2SO4, filtered and concentrated to give viscous yellow oil. Purification on a silica gel column using hexanes/ethyl acetate (3:2) gave pure product as a viscous yellow oil (372 mg, 93% yield). 1H NMR (500 MHz, CDCl3) δ: 7.41–7.30 (2H, m), 7.11 (0.67H, d, J=10.1 Hz), 7.10 (0.33H, d, J=10.1 Hz), 6.22 (0.67H, s), 5.87 (0.33H, s), 4.87–4.81 (0.33H, m), 4.51 (1.34H, s), 4.47 (0.66H, s), 4.30–4.24 (0.67H, m), 1.73 (4H, s), 1.71 (2H, s), 1.21 (4H, d, J=6.2 Hz), 1.11 (2H, d, J=6.7 Hz). MS calcd for C17H20Cl2NO4 (M+H): 372.24. found: 372.18.

reactant | (3,4-dichloro-benzyl)-isopropyl-amine | ClC=1C=C(CNC(C)C)C=CC1Cl | C10H13Cl2N
reactant | hydrochloride | 1.024 mmol, 260 mg | Cl | ClH
reactant | (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride | 1.0 mmol, 190 mg | CC1(OC(C(O1)=CC(=O)Cl)=O)C | C7H7ClO4
reactant | diisopropylethylamine | 2.0 mmol, 350 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-isopropyl-acetamide | 372 mg, 93% yield | ClC=1C=C(CN(C(C=C2OC(OC2=O)(C)C)=O)C(C)C)C=CC1Cl | C17H19Cl2NO4
